US05922716
A mixture of 2.27 g of ethyl (8-chloro-5-methyl-2,3-dioxo-1,4-dihydro-5H-indeno [1,2-b]pyrazin-5-yl)acetate, 120 ml of dioxane and 25 ml of 8N aqueous hydrochloric acid solution is heated to a temperature in the region of 80° C. for 4 hours. The reaction mixture is then evaporated under reduced pressure, and the evaporation residue is triturated in 35 ml of an ethanol/water (85:15 by volume) mixture, filtered and washed with distilled water (2 times 10 ml). The product obtained is taken up in 68 ml of 0.1N aqueous sodium hydroxide solution. The insoluble matter is separated by filtration, and the filtrate is neutralized by adding 6.8 ml of 1N aqueous hydrochloric acid solution. The solid obtained is separated by filtration, washed with distilled water (2 times 5 ml) and dried in the air. 0.41 g of (8-chloro-5-methyl-2,3-dioxo-1,4-dihydro-5H-indeno[1,2-b]pyrazin-5-yl) acetic acid is thereby obtained in the form of an ochre-coloured solid melting above 300° C. (1H NMR spectrum [200 MHz, (CD3)2SO-d6, δ in ppm]: 1.39 (3H, s, CH3); 2.93 (2H, m, --CH2 --CO); 7.19 (lH, dd, J=8 and 2 Hz, arom H); 7.48 (1H, d, J=8 Hz, arom H); 7.56 (1H, d, 2=2 Hz, arom H); 12.18 (1H, s, --NH--); 12.24, s, --NH); Analysis, % calculated C: 54.83; H: 3.61; Cl: 11.56; N: 9.13; 0: 20.87; % found C: 55.2; H: 3.4; Cl: 11.2; N: 9.0; O: 18.6).

reactant | ethyl (8-chloro-5-methyl-2,3-dioxo-1,4-dihydro-5H-indeno [1,2-b]pyrazin-5-yl)acetate | 2.27 g | ClC1=C2C=C3C(NC(C(N3)=O)=O)=C2C(C=C1)(C)CC(=O)OCC | C16H15ClN2O4
reactant | dioxane | 120 ml | O1CCOCC1 | C4H8O2
reactant | hydrochloric acid | 8N, 25 ml | Cl | ClH
solvent | sodium hydroxide | 0.1N, 68 ml | [OH-].[Na+]
product | (8-chloro-5-methyl-2,3-dioxo-1,4-dihydro-5H-indeno[1,2-b]pyrazin-5-yl) acetic acid | 0.41 g | ClC1=C2C=C3C(NC(C(N3)=O)=O)=C2C(C=C1)(C)CC(=O)O | C14H11ClN2O4
